US08314138B2
Synthesis of 2-[1-(4-tert-butyl-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 1-bromomethyl-4-tert-butyl-benzene as described in Example 49 and isolated as a yellow solid (0.080 g, 53% yield). 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.56 (d, J=4 Hz, 1H), 7.71 (d, J=8 Hz, 1H), 7.36-7.40 (m, 3H), 7.26-7.30 (m, 1H), 7.20 (d, J=8 Hz, 2H), 6.82 (d, J=2 Hz, 1H), 6.09-6.14 (m, 1H), 5.31 (s, 2H), 4.63 (d, J=8 Hz, 2H), 2.75 (s, 3H), 1.30 (s, 9H); MS (M+H)+=445.9; Rt=1.47 min; HRMS (M+H)+=446.20.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 1-bromomethyl-4-tert-butyl-benzene | BrCC1=CC=C(C=C1)C(C)(C)C | C11H15Br
product | 2-[1-(4-tert-butyl-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC=C(C=C1)C(C)(C)C)C | C25H27N5OS
